US08278324B2
3-[5-(5-{3-cyano-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-3,4-dihydro-2(1H)-isoquinolinyl]propanoic acid hydrochloride
A solution of methyl 3-[5-(5-{3-cyano-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-3,4-dihydro-2(1H)-isoquinolinyl]propanoate formic acid salt (Preparation 6, 5.9 mg, 0.0132 mmol) and LiOH (0.15 mg) in THF-MeOH-water (300 μl, 300 μl, 100 μl) was irradiated to 100° C. for 3 min in the microwave. 2M aqueous HCl (1 ml) and DCM (2 ml) were added sequentially, and a precipitate formed. Filtration gave the title compound as a white solid (6.5 mg, quant.). 1H NMR (400 MHz, d6-DMSO) δ 12.71 (1H, br s), 11.41 (1H, br s), 8.53 (1H, d), 8.41 (1H, dd), 8.05 (1H, d), 7.57 (1H, d), 7.53 (1H, t), 7.46 (1H, d), 4.99 (1H, sept), 4.53 (2H, br s), 3.46-3.43 (4H, m), 3.65 (2H, br s), 2.98 (2H, t), 1.39 (6H, d); m/z (ES) 433 [M+H+].

reactant | methyl 3-[5-(5-{3-cyano-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-3,4-dihydro-2(1H)-isoquinolinyl]propanoate formic acid salt | 0.0132 mmol, 5.9 mg | C(=O)O.C(#N)C=1C=C(C=CC1OC(C)C)C1=NC(=NO1)C1=C2CCN(CC2=CC=C1)CCC(=O)OC
reactant | LiOH | 0.15 mg | [Li+].[OH-]
reactant | HCl | 2M, 1 ml | Cl | ClH
reactant | DCM | 2 ml | C(Cl)Cl | CH2Cl2
solvent | THF MeOH water | 300 μl | C1CCOC1.CO.O
product | 3-[5-(5-{3-cyano-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-3,4-dihydro-2(1H)-isoquinolinyl]propanoic acid hydrochloride | 6.5 mg | Cl.C(#N)C=1C=C(C=CC1OC(C)C)C1=NC(=NO1)C1=C2CCN(CC2=CC=C1)CCC(=O)O | InChI=1S/C24H24N4O4.ClH/c1-15(2)31-21-7-6-16(12-18(21)13-25)24-26-23(27-32-24)20-5-3-4-17-14-28(10-8-19(17)20)11-9-22(29)30;/h3-7,12,15H,8-11,14H2,1-2H3,(H,29,30);1H
